US05296486
Bromine (3.19 g) was added dropwise at 0° C. to a solution of 2-amino-5-picoline in 75 mL CH2Cl2. After about two hours at room temperature, the reaction was extracted with saturated sodium carbonate solution, then sodium thiosulfate solution. The combined aqueous extracts were washed with CH2Cl2, and the combined organic extracts washed with saturated NaCl, dried (Na2SO4) and concentrated giving 3.59 g crude material. The product was purified by flash chromatography on silica gel, eluting with petroleum ether with increasing amounts of CH2Cl2 (0-40%), giving 3.05 g 2-amino-3-bromo-5-picoline, m.p. 68°-70° C.

reactant | Bromine | 3.19 g | BrBr | Br2
reactant | 2-amino-5-picoline | NC1=NC=C(C=C1)C | C6H8N2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-3-bromo-5-picoline | 3.05 g | NC1=NC=C(C=C1Br)C | C6H7BrN2
